US05256676
(1) 3-Benzyloxy-2-ethyl-4-pyrone
To a stirred mixture of 2-ethyl-3-hydroxy-4-pyrone (49 g, 0.35 mol) in methanol (600 ml) and sodium hydroxide (16 g, 0.4 mol) dissolved in water (50 ml) was added benzyl chloride (47.2 ml, 0.41 mol) dropwise at room temperature. After heating under reflux for 48 hours the reaction mixture was cooled, filtered and the filtrate rotary evaporated to provide an oil. The oil was extracted with dichloromethane (300 ml), the solution washed with 5% w/v sodium hydroxide solution (3×250 ml) and water (3×250 ml), then dried over anhydrous sodium sulphate, filtered and rotary evaporated to provide an oil which was dissolved in diethyl ether and crystallized by coating with liquid nitrogen. Recrystallization from diethyl ether gave the title compound as colourless crystals (52.5 g, 65%), m.p. 33°-34° C.

reactant | 2-ethyl-3-hydroxy-4-pyrone | 0.35 mol, 49 g | C(C)C=1OC=CC(C1O)=O | C7H8O3
reactant | sodium hydroxide | 0.4 mol, 16 g | [OH-].[Na+]
reactant | benzyl chloride | 0.41 mol, 47.2 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 600 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Benzyloxy-2-ethyl-4-pyrone | 52.5 g, 65% | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)CC | C14H14O3
